US07947689B2
N-[2-(5-Methyl-thiophen-2-yl)-ethyl]-acetamide
In close analogy to the procedure described above, 2-(5-Methyl-thiophen-2-yl)-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-(5-Methyl-thiophen-2-yl)-ethylamine | CC1=CC=C(S1)CCN | C7H11NS
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(5-Methyl-thiophen-2-yl)-ethyl]-acetamide | Yield: 78% | CC1=CC=C(S1)CCNC(C)=O | C9H13NOS
